US03953432
4,4-Dimethyl-2-[2-(2-thienyl)ethenyl]-2-oxazoline (P-1894) was synthesized by reacting 2-thiophenecarboxaldehyde with 2,4,4-trimethyl-2-oxazoline.

reactant | 2-thiophenecarboxaldehyde | S1C(=CC=C1)C=O | C5H4OS
reactant | 2,4,4-trimethyl-2-oxazoline | CC=1OCC(N1)(C)C | C6H11NO
product | 4,4-Dimethyl-2-[2-(2-thienyl)ethenyl]-2-oxazoline | CC1(N=C(OC1)C=CC=1SC=CC1)C | C11H13NOS
